US08084489B2
To a mixture of (±)-5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ylsulfanyl)-2-methyl-propyl]-thiophene-2-carboxylic acid (0.420 g, 0.905 mmol), 3-amino-propionic acid methyl ester hydrochloride (0.148 g, 1.06 mmol), and 1-hydroxybenzotriazole hydrate (HOBt, 0.151 g, 1.12 mmol) in DMF (9.0 mL) is added N, N-diisopropylethylamine (0.49 mL, 2.81 mmol), then N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDCI, 0.0.228 g, 1.19 mmol) and stirred overnight. The reaction mixture is poured into H2O (25 mL) and extracted with EtOAc (3×25 mL). Combined organic extracts are washed with H2O, brine, dried over MgSO4, filtered, and concentrated. The residue is loaded onto silica gel and eluted using hexanes with an ethyl acetate, gradient from 0% to 75% to provide (±)-3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ylsulfanyl)-2-methyl-propyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (0.347 g, 70%) as a white foam. MS (ES): 548.1 [M−H]−. The racemic material is separated by chiral HPLC (column: Chiralpak AD-H 4.6×150 mm; eluent: 10:90 3A alcohol/Heptane; flow rate: 0.6 mL/min; UV absorbance wavelength: 280 nm) to provide Isomer 1 (0.126 g, >99% ee) and Isomer 2 (0.119 g, 94.5% ee).

reactant | (±)-5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ylsulfanyl)-2-methyl-propyl]-thiophene-2-carboxylic acid | 0.905 mmol, 0.420 g | CC1=C(C(=CC(=C1)SC(C(C)C)C1=CC=C(S1)C(=O)O)C)C1=CC=C(C=C1)C(F)(F)F | C24H23F3O2S2
reactant | 3-amino-propionic acid methyl ester hydrochloride | 1.06 mmol, 0.148 g | Cl.COC(CCN)=O
reactant | 1-hydroxybenzotriazole hydrate | 1.12 mmol, 0.151 g | O.ON1N=NC2=C1C=CC=C2
reactant | N, N-diisopropylethylamine | 2.81 mmol, 0.49 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.19 mmol | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 9.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 25 mL | O | H2O
product | (±)-3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ylsulfanyl)-2-methyl-propyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.347 g, 70% | COC(CCNC(=O)C=1SC(=CC1)C(C(C)C)SC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)=O | C28H30F3NO3S2
